US08669234B2
2,7-Dibromo-9,9-dimethyl-9H-fluorene.
To a stirred solution of 2,7-dibromo-9H-fluorene (1.0 g, 3.1 mmol), KI (50 mg, 0.3 mmol) and KOH (750 mg, 13.3 mmol) in DMSO was added methyl iodide (0.42 mL, 6.8 mmol). The mixture was stirred at room temperature for 16 hours, then diluted with ethyl acetate (100 mL). The organic layer was washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product 2,7-Dibromo-9,9-dimethyl-9H-fluorene as a white solid (1.1 g, 100%).

reactant | 2,7-dibromo-9H-fluorene | 3.1 mmol, 1.0 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | KOH | 13.3 mmol, 750 mg | [OH-].[K+]
reactant | methyl iodide | 6.8 mmol, 0.42 mL | CI | CH3I
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DMSO | CS(=O)C | C2H6OS
product | 2,7-Dibromo-9,9-dimethyl-9H-fluorene | 1.1 g, 100% | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(C)C | C15H12Br2
